US05304560
A mixture of 2-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butylamino]-6-nitrobenzamide (300 mg) and N,N'-carbonyldiimidazole (554 mg) in dioxane (3 ml) was stirred for 2 hours at 150° C. The solvent was removed during the reaction. The residue was crystallized from a mixture of ethanol and ether. The crude crystalline materials were collected, washed with methylene chloride, and recrystallized from ethanol to afford 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-5-nitro-2,4(1H,3H)-quinazolinedione (265 mg).

reactant | 2-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butylamino]-6-nitrobenzamide | 300 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCNC1=C(C(=O)N)C(=CC=C1)[N+](=O)[O-] | C22H26N4O3
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-5-nitro-2,4(1H,3H)-quinazolinedione | 265 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN1C(NC(C2=C(C=CC=C12)[N+](=O)[O-])=O)=O | C23H24N4O4
